US07915271B2
In a tube were placed (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(4-bromo-1,3-thiazol-2-yl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (46.0 mg, 0.073 mmol), methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (30 mg, 0.11 mmol), 1,1′-bis(di-t-butylphosphino)ferrocene palladium dichloride (5 mg, 7.3×10−3 mmol), THF (1 mL) and 1M K2CO3 (1 mL, 1 mmol). The mixture was degassed with N2, the tube was sealed, and the reaction was heated to 90° C. for 90 minutes. The reaction was cooled to room temperature and diluted with EtOAc (30 mL). The organic layer was washed with water and brine (10 mL) each, dried over Na2SO4, filtered and concentrated. Purification of the residue by flash chromatography on silica gel (5 to 40% EtOAc/hexanes) afforded methyl 4-{2-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)phenyl]-1,3-thiazol-4-yl}-3-methylbenzoate. Rf=0.29 (25% EtOAc/hexanes). LCMS=702.9 (M+1)+. 1H NMR (CDCl3, 600 MHz) δ 7.97 (s, 1H), 7.92 (dd, J=8.0, 1.4 Hz, 1H), 7.85-7.86 (m, 3H), 7.69-7.72 (m, 4H), 7.53 (s, 1H), 5.66 (d, J=8.0 Hz, 1H), 5.11 (d, J=16.2 Hz, 1H), 4.95 (d, J=16.2 Hz, 1H), 4.11 (m, 1H), 3.93 (s, 3H), 2.54 (s, 3H), 0.60 (d, J=6.6 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(4-bromo-1,3-thiazol-2-yl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.073 mmol, 46.0 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1SC=C(N1)Br)C)(F)F | C23H14BrF9N2O2S
reactant | methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.11 mmol, 30 mg | CC=1C=C(C(=O)OC)C=CC1B1OC(C(O1)(C)C)(C)C | C15H21BO4
reactant | K2CO3 | 1 mmol, 1M, 1 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | 1,1′-bis(di-t-butylphosphino)ferrocene palladium dichloride | 7.3×10−3 mmol, 5 mg | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | methyl 4-{2-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)phenyl]-1,3-thiazol-4-yl}-3-methylbenzoate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1SC=C(N1)C1=C(C=C(C(=O)OC)C=C1)C)C)(F)F | C32H23F9N2O4S
